* AD103 Lab 04 - the L ladder
*
* Six nfet_01v8 devices, all W = 5 um, lengths 0.15 / 0.25 / 0.5 / 1 / 2 / 4 um.
* 0.15 um is the shortest channel this process will draw; 4 um is 27 times that.
* Identical bias: V_GS = V_DS = 1.8 V.
*
* The claim under test:  I_D is proportional to 1/L.
*
*   ngspice -b spice/l_ladder.spice
*
* vdsat is the model's own opinion of where saturation begins for that device.
* Watch it move down the ladder - it is the receipt for why 1/L fails.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

XL015 l015 g 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=5
XL025 l025 g 0 0 sky130_fd_pr__nfet_01v8 L=0.25 W=5
XL05  l05  g 0 0 sky130_fd_pr__nfet_01v8 L=0.5  W=5
XL1   l1   g 0 0 sky130_fd_pr__nfet_01v8 L=1    W=5
XL2   l2   g 0 0 sky130_fd_pr__nfet_01v8 L=2    W=5
XL4   l4   g 0 0 sky130_fd_pr__nfet_01v8 L=4    W=5

Vg    g    0 1.8
Vl015 l015 0 1.8
Vl025 l025 0 1.8
Vl05  l05  0 1.8
Vl1   l1   0 1.8
Vl2   l2   0 1.8
Vl4   l4   0 1.8

.control
op
echo "--- I_D (A) for L = 0.15 0.25 0.5 1 2 4 um, all W = 5 um ---"
let j015 = -i(Vl015)
let j025 = -i(Vl025)
let j05  = -i(Vl05)
let j1   = -i(Vl1)
let j2   = -i(Vl2)
let j4   = -i(Vl4)
print j015 j025 j05 j1 j2 j4
echo
echo "--- threshold voltage vth (V), same order ---"
print @m.xl015.msky130_fd_pr__nfet_01v8[vth] @m.xl025.msky130_fd_pr__nfet_01v8[vth] @m.xl05.msky130_fd_pr__nfet_01v8[vth]
print @m.xl1.msky130_fd_pr__nfet_01v8[vth] @m.xl2.msky130_fd_pr__nfet_01v8[vth] @m.xl4.msky130_fd_pr__nfet_01v8[vth]
echo
echo "--- saturation voltage vdsat (V), same order ---"
print @m.xl015.msky130_fd_pr__nfet_01v8[vdsat] @m.xl025.msky130_fd_pr__nfet_01v8[vdsat] @m.xl05.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xl1.msky130_fd_pr__nfet_01v8[vdsat] @m.xl2.msky130_fd_pr__nfet_01v8[vdsat] @m.xl4.msky130_fd_pr__nfet_01v8[vdsat]
.endc
.end
